US05552476
Preparation of Octadecyltris(2-(2-(2-methoxyethoxy)ethoxy)ethoxy)silane
The procedure of Example 1 was repeated with 387.5 g (1.0 mole) of octadecyltrichlorosilane and 800 mL of heptane. Under nitrogen 508.4 g (3.10 mole) of 2-(2-(2-methoxyethoxy)ethoxy)ethanol was added at 80° C. over 4 hours. After heating the reaction for an additional 48 hours and removal of all volatile components under vacuum, 780 g of the pale yellow liquid product were obtained.

reactant | octadecyltrichlorosilane | 1.0 mole, 387.5 g | C(CCCCCCCCCCCCCCCCC)[Si](Cl)(Cl)Cl | C18H37Cl3Si
reactant | 2-(2-(2-methoxyethoxy)ethoxy)ethanol | COCCOCCOCCO | C7H16O4
solvent | heptane | 800 mL | CCCCCCC | C7H16
product | Octadecyltris(2-(2-(2-methoxyethoxy)ethoxy)ethoxy)silane | 780 g | C(CCCCCCCCCCCCCCCCC)[Si](OCCOCCOCCOC)(OCCOCCOCCOC)OCCOCCOCCOC | C39H82O12Si
